US05126448
In 5 ml of dimethylformamide were dissolved 0.32 g of 2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid, 0.08 g of methylamine.hydrochloride, and 0.17 ml of triethylamine, and after adding dropwise thereto 5 ml of a dimethylformamide solution of 0.33 g of diphenylphosphorylazide under ice-cooling and further adding dropwise thereto 2 ml of a dimethylformamide solution of 0.17 ml of triethylamine, the mixture was stirred for 2 hours at room temperature. To the reaction mixture was added 50 ml of ethyl acetate and the mixture was washed thrice with 10 ml of an aqueous 5% citric acid solution, thrice with an aqueous 5% sodium hydrogencarbonate solution and then twice with a saturated sodium chloride solution, and thereafter dried with sodium sulfate. After filtering away sodium sulfate, 5 ml of a mixture of 1N hydrochloric acid in ethyl acetate were added to the filtrate and the mixture was heated to 50° C. for one hour. Then, the reaction mixture was allowed to stand overnight in a refrigerator and crystals thus deposited were collected by filtration to provide 0.23 g (yield of 65%) of N-methyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboamide. (See Table 11, Table 12).

reactant | 2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | 0.32 g | C(C)(C)(C)OC(=O)C1C(C2C3(C(=NCC2)C=CC=C3)S1)C(=O)O | C17H21NO4S
reactant | methylamine.hydrochloride | 0.08 g | Cl.CN
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 0.33 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboamide | 0.23 g, yield of 65% | CNC(=O)C1CSC23C(=NCCC21)C=CC=C3 | C13H16N2OS
